US07655644B2
2,4-Dichloro-N-[4-(cyclopropylmethyl)-1-(1-methyl-1H-[1,2,3]-triazole-4-sulfonyl)piperidin-4-ylmethyl]-benzamide
2,4-Dichloro-N-[4-(cyclopropylmethyl)-1-(1H-[1,2,3]triazole-4-sulfonyl)piperidin-4-ylmethyl]benzamide (472 mg, 1.0 mmol) was dissolved in N,N-dimethylformamide (5 mL). Potassium carbonate (276 mg, 2 mmol) and methyl iodide (81 μL, 1.3 mmol) were added and the mixture stirred at room temperature over night.

reactant | 2,4-Dichloro-N-[4-(cyclopropylmethyl)-1-(1H-[1,2,3]triazole-4-sulfonyl)piperidin-4-ylmethyl]benzamide | 1.0 mmol, 472 mg | ClC1=C(C(=O)NCC2(CCN(CC2)S(=O)(=O)C=2N=NNC2)CC2CC2)C=CC(=C1)Cl | C19H23Cl2N5O3S
reactant | Potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.3 mmol, 81 μL | CI | CH3I
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2,4-Dichloro-N-[4-(cyclopropylmethyl)-1-(1-methyl-1H-[1,2,3]-triazole-4-sulfonyl)piperidin-4-ylmethyl]-benzamide | ClC1=C(C(=O)NCC2(CCN(CC2)S(=O)(=O)C=2N=NN(C2)C)CC2CC2)C=CC(=C1)Cl | C20H25Cl2N5O3S
